US08633211B2
(2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-carbamic acid tert-butyl ester
This compound is made analogously to Example 1-2 by replacing Intermediate A with [3-(2-tert-butoxycarbonylamino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-acetic acid and by replacing cyclopentylamine with 5-chloro-2,4-dimethoxyaniline to afford the title compound. The reaction is carried out in DCM.

reactant | [3-(2-tert-butoxycarbonylamino-ethyl)-2,4-dioxo-3,4-dihydro-2H-quinazolin-1-yl]-acetic acid | C(C)(C)(C)OC(=O)NCCN1C(N(C2=CC=CC=C2C1=O)CC(=O)O)=O | C17H21N3O6
reactant | 5-chloro-2,4-dimethoxyaniline | ClC=1C(=CC(=C(N)C1)OC)OC | C8H10ClNO2
product | (2-{1-[(5-Chloro-2,4-dimethoxy-phenylcarbamoyl)-methyl]-2,4-dioxo-1,4-dihydro-2H-quinazolin-3-yl}-ethyl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCN1C(N(C2=CC=CC=C2C1=O)CC(NC1=C(C=C(C(=C1)Cl)OC)OC)=O)=O)=O | C25H29ClN4O7
